US08975411B2
Synthesis of tert-butyl imino{[(mesitylthio)acetyl]amino}methylcarbamate
Mesitylthio acetic acid (6.90 g; 33 mmol), diisopropylethylamine (21.2 g; 164 mmol), tert-butyl amino(imino)methylcarbamate (6.37 g; 40 mmol), and 1-hydroxybenzotriazole monohydrate (6.13 g; 40 mmol) were dissolved in N,N-dimethylformamide (120 mL), 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate (15.2 g; 40 mmol) was added, and the mixture was stirred for 15 hours at room temperature. To the reaction solution, ethyl acetate (300 mL) was added, and the mixture was washed with 10% aqueous citric acid solution, brine, saturated aqueous sodium bicarbonate solution, and then brine. The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure to give 14.3 g of the title compound (yield 100%) as an oil.

reactant | Mesitylthio acetic acid | 33 mmol, 6.90 g | C1(=C(C(=CC(=C1)C)C)CC(=S)O)C | C11H14OS
reactant | diisopropylethylamine | 164 mmol, 21.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl amino(imino)methylcarbamate | 40 mmol, 6.37 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 1-hydroxybenzotriazole monohydrate | 40 mmol, 6.13 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate | 40 mmol, 15.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl imino{[(mesitylthio)acetyl]amino}methylcarbamate | 14.3 g, yield 100% | N=C(NC(CSC1=C(C=C(C=C1C)C)C)=O)NC(OC(C)(C)C)=O | C17H25N3O3S
